US06469020B2
4-Benzenesulfonyloxy-piperidine-1-carboxylic Acid Benzyl Ester
Triethylamine (17 ml) was added dropwise to a solution of benzyl 4-hydroxy-1-piperidinecarboxylate (28.83 g) in dichloromethane (100 ml) at 0° C. and stirred for 15 minutes. Benzenesulfonyl chloride (14 ml) was added and the reaction allowed to stir at room temperature for 48 h. The mixture was washed with water (50 ml), saturated sodium bicarbonate solution (50 ml), water (50 ml) and brine (50 ml) then dried (Na2SO4), filtered and evaporated under reduced pressure. The residue was purified by chromatography (SiO2, 20% ethyl acetate in hexane to 30% ethyl acetate in hexane) to give the title compound (31.88 g, 77%) as a white crystalline solid.

reactant | Triethylamine | 17 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl 4-hydroxy-1-piperidinecarboxylate | 28.83 g | OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H17NO3
reactant | Benzenesulfonyl chloride | 14 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-Benzenesulfonyloxy-piperidine-1-carboxylic Acid Benzyl Ester | 31.88 g, 77% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OS(=O)(=O)C1=CC=CC=C1 | C19H21NO5S
